simulator lang=spectre
global 0

ahdl_include "dut_fixed.va"

Vsample (sample 0) vsource type=pwl wave=[ \
  0 0 \
  20n 0 \
  20.25n 0.9 \
  24n 0.9 \
  24.25n 0 \
  80n 0 \
  80.25n 0.9 \
  84n 0.9 \
  84.25n 0 \
  145n 0 \
  145.25n 0.9 \
  149n 0.9 \
  149.25n 0 \
  170n 0 \
]
Vrst (rst 0) vsource type=pwl wave=[0 0 120n 0 120.25n 0.9 136n 0.9 136.25n 0 170n 0]
Vvin (vin 0) vsource type=pwl wave=[0 0.20 30n 0.20 30.25n 0.72 90n 0.72 90.25n 0.34 150n 0.34 150.25n 0.62 170n 0.62]

XDUT (sample rst vin vout) leaky_hold

tran tran stop=170n maxstep=250p
save sample rst vin vout
